US05114466
Synthesis for N-(3-chlorobenzyl)-N-(2-pentenyl)-2,2-dichloroacetamide
2 g of N-(3-chlorobenzyl)-N-(2-heptenyl)amine was dissolved in 40 ml of toluene, to which 1.7 g of 2,2-dichloroacetyl chloride was dropped under stirring gradually at a room temperature. After stirring for 20 min, deposited insoluble matters were filtered and then 50 ml of toluene was added. The toluene solution was washed with an aqueous saturated solution of sodium hydrogen carbonate and with a saturated solution of sodium chloride respectively each by twice. After dying with anhydrous sodium sulfate, it was concentrated in an evaporated to obtain an aimed oily product quantitatively.

reactant | N-(3-chlorobenzyl)-N-(2-heptenyl)amine | 2 g | ClC=1C=C(CNCC=CCCCC)C=CC1 | C14H20ClN
reactant | 2,2-dichloroacetyl chloride | 1.7 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-chlorobenzyl)-N-(2-pentenyl)-2,2-dichloroacetamide | ClC=1C=C(CN(C(C(Cl)Cl)=O)CC=CCC)C=CC1 | C14H16Cl3NO
